US04342704
153.5 g (2.26 mol) of sodium ethylate in 800 ml of ethanol were added dropwise, at 5°-10° C., to a solution of 227.5 g (1.13 mol) of dichloromethane-phosphonic acid dichloride in 800 ml of toluene. The mixture was subsequently stirred at 20° C. for 5 hours. It was then filtered, the filtrate was concentrated and the residue was subjected to fractional distillation. 195 g (78% of theory) of dichloromethane-phosphonic acid diethyl ester were obtained in the form of a colorless oil of boiling point 84° C./1 mbar.

reactant | sodium ethylate | 2.26 mol, 153.5 g | CC[O-].[Na+]
reactant | dichloromethane-phosphonic acid dichloride | 1.13 mol, 227.5 g | ClC(P(=O)(Cl)Cl)Cl | CHCl4OP
reactant | ethanol | 800 ml | C(C)O | C2H6O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | dichloromethane-phosphonic acid diethyl ester | 195 g, 78% | C(C)OP(OCC)(=O)C(Cl)Cl | C5H11Cl2O3P
